US04585773
Reduction of 1-fluoro-3-methoxy-4-nitrobenzene (0.11 mol) (prepared by methylation of 5-fluoro-2-nitrophenol with methyl iodide was carried out according to Step (b) of Example XII to provide 14.8 g (98% yield) of 5-fluoro-2-methoxyaniline used without further purification.

reactant | 1-fluoro-3-methoxy-4-nitrobenzene | 0.11 mol | FC1=CC(=C(C=C1)[N+](=O)[O-])OC | C7H6FNO3
reactant | 5-fluoro-2-nitrophenol | FC=1C=CC(=C(C1)O)[N+](=O)[O-] | C6H4FNO3
reactant | methyl iodide | CI | CH3I
product | 5-fluoro-2-methoxyaniline | 14.8 g, 98% yield | FC=1C=CC(=C(N)C1)OC | C7H8FNO
